US08877774B2
Step 4. 3-((8-(1,3-Dioxolan-2-yl)octyl)oxy)-5-bromobenzaldehyde
To a stirred solution of (3-((8-(1,3-dioxolan-2-yl)octyl)oxy)-5-bromophenyl)methanol (1.69 g, 4.36 mmol) in 1,4-dioxane (25 mL), was added magnesium (IV) oxide (1.90 g, 21.9 mmol). The reaction mixture was heated to 100° C. for 16 hours. The suspension was filtered, washed with ethyl acetate, and the filtrate was concentrated under reduced pressure to afford the title compound (1.25 g, 74%).

reactant | (3-((8-(1,3-dioxolan-2-yl)octyl)oxy)-5-bromophenyl)methanol | 4.36 mmol, 1.69 g | O1C(OCC1)CCCCCCCCOC=1C=C(C=C(C1)Br)CO | C18H27BrO4
reactant | magnesium (IV) oxide | 21.9 mmol, 1.90 g | [O-2].[Mg+4].[O-2]
solvent | 1,4-dioxane | 25 mL | O1CCOCC1 | C4H8O2
product | 3-((8-(1,3-Dioxolan-2-yl)octyl)oxy)-5-bromobenzaldehyde | 1.25 g, 74% | O1C(OCC1)CCCCCCCCOC=1C=C(C=O)C=C(C1)Br | C18H25BrO4
